US09085606B2
Step-2: Preparation of 3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid
A suspension of 3-bromo-5-tert-butylbenzaldehyde (41.5 g, 0.17 mol), malonic acid (21.5 g, 0.20 mol) and ammonium acetate (26.6 g, 0.34 mol) in isopropanol (350 mL) was heated at reflux under nitrogen for 14 h to afford a thick colorless solid. The solid was filtered hot, washed with hot isopropanol (2×100 mL) and dried in vacuo to give the desired racemic product as a colorless solid (37.8 g).

reactant | 3-bromo-5-tert-butylbenzaldehyde | 0.17 mol, 41.5 g | BrC=1C=C(C=O)C=C(C1)C(C)(C)C | C11H13BrO
reactant | malonic acid | 0.20 mol, 21.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 0.34 mol, 26.6 g | C(C)(=O)[O-].[NH4+]
solvent | isopropanol | 350 mL | C(C)(C)O | C3H8O
product | 3-Amino-3-(3-bromo-5-tert-butyl-phenyl)-propionic acid | 37.8 g | NC(CC(=O)O)C1=CC(=CC(=C1)C(C)(C)C)Br | C13H18BrNO2
